US07713994B2
4-(2-Ethyl-pyrrolidin-1-ylmethyl)-phenylamine
Using the same procedure described for the preparation of 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, the title compound is prepared from 1-(4-Nitro-benzyl)-2-vinyl-pyrrolidine (220 mg, 0.95 mmol) in 44% yield.

reactant | 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC=C(C=C1)N | C15H22N2O2
reactant | 1-(4-Nitro-benzyl)-2-vinyl-pyrrolidine | 0.95 mmol, 220 mg | [N+](=O)([O-])C1=CC=C(CN2C(CCC2)C=C)C=C1 | C13H16N2O2
product | 4-(2-Ethyl-pyrrolidin-1-ylmethyl)-phenylamine | 44% yield | C(C)C1N(CCC1)CC1=CC=C(C=C1)N | C13H20N2
